US04673746
A solution of 3.5 g of {[7-chloro-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]oxy}acetyl chloride in 35 ml dimethylformamide is heated at 100° C. for 4 hr. The reaction mixture is then poured into ice, acidified and extracted with ether (4×200 ml). The organic extracts are washed with saturated sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and the filtrate evaporated in vacuo to afford an oil which crystallizes on trituration with ether/petroleum ether. Chromatography on silica gel affords N,N-dimethyl{[7-chloro-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]oxy}acetamide mp 116° C.

reactant | {[7-chloro-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]oxy}acetyl chloride | 3.5 g | ClC1=C(C=CC=2C(=NOC21)C2=C(C=CC=C2)F)OCC(=O)Cl | C15H8Cl2FNO3
reactant | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
product | N,N-dimethyl{[7-chloro-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]oxy}acetamide | CN(C(COC1=C(C2=C(C(=NO2)C2=C(C=CC=C2)F)C=C1)Cl)=O)C | C17H14ClFN2O3
